### PR TITLE
[Merged by Bors] - feat(Analysis/Convex/Between): betweenness from differences on the same ray

### PR DESCRIPTION
**Pull request by wangying11123**
Add `wbtw_of_sameRay_vsub_left`, saying that if the vectors from a point x to points y and z lie on the same ray, then y is weakly between x and z, or z is weakly between x and y.

### CODE REVIEW

File: Mathlib/Analysis/Convex/Between.lean [hunk 1]
```diff
@@ -1069,6 +1069,30 @@ theorem wbtw_iff_sameRay_vsub {x y z : P} : Wbtw R x y z ↔ SameRay R (y -ᵥ x
...
+        add_zero]
+      ring_nf
+    · simp only [not_le] at hr
+      right
+      refine ⟨r₁ / r₂, ⟨div_nonneg hr₁.le hr₂.le, div_le_one_of_le₀ hr.le hr₂.le⟩, ?_⟩
+      have h' : z = r₂⁻¹ • r₁ • (y -ᵥ x) +ᵥ x := by simp [h, hr₂.ne']
+      rw [eq_comm]
+      simp only [lineMap_apply, h', vadd_vsub_assoc, smul_smul, eq_vadd_iff_vsub_eq, vsub_self,
+        add_zero]
+      ring_nf
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean]: Can you uncomment this since it is the main line of the argument?

Comment (wangying11123) [reply Mathlib/Analysis/Convex/Between.lean]: Thanks for your suggest.But I'm a little confused by "uncomment". The code seems not commented out.Do you mean I should add some comments to the code to make the argument clearer?

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Between.lean]: Whoops, sorry, I meant unindent, cf the "line of sight rule"

Comment (wangying11123) [reply Mathlib/Analysis/Convex/Between.lean]: Thank you. This problem fixed.

File: Mathlib/Analysis/Convex/Between.lean [hunk 2]
```diff
@@ -1064,6 +1064,30 @@ theorem wbtw_iff_sameRay_vsub {x y z : P} : Wbtw R x y z ↔ SameRay R (y -ᵥ x
...
+      add_zero]
+    ring_nf
+  · simp only [not_le] at hr
+    right
+    refine ⟨r₁ / r₂, ⟨div_nonneg hr₁.le hr₂.le, div_le_one_of_le₀ hr.le hr₂.le⟩, ?_⟩
+    have h' : z = r₂⁻¹ • r₁ • (y -ᵥ x) +ᵥ x := by simp [h, hr₂.ne']
+    rw [eq_comm]
+    simp only [lineMap_apply, h', vadd_vsub_assoc, smul_smul, eq_vadd_iff_vsub_eq, vsub_self,
+      add_zero]
+    ring_nf
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean]: Can you shorten this proof using `wlog`?

File: Mathlib/Analysis/Convex/Between.lean [hunk 3]
```diff
@@ -1064,6 +1064,30 @@ theorem wbtw_iff_sameRay_vsub {x y z : P} : Wbtw R x y z ↔ SameRay R (y -ᵥ x
     convert (one_smul R (y -ᵥ x)).symm
     field
 
+lemma wbtw_of_sameRay_vsub_left {x y z : P} (h : SameRay R (y -ᵥ x) (z -ᵥ x)) :
+    Wbtw R x y z ∨ Wbtw R x z y := by
+  rcases h with (h | h | ⟨r₁, r₂, hr₁, hr₂, h⟩)
+  · rw [vsub_eq_zero_iff_eq] at h
+    simp [h]
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean]:
```suggestion
  · simp_all
```
Same below

File: Mathlib/Analysis/Convex/Between.lean [hunk 4]
```diff
@@ -1064,6 +1064,30 @@ theorem wbtw_iff_sameRay_vsub {x y z : P} : Wbtw R x y z ↔ SameRay R (y -ᵥ x
...
+  · rw [vsub_eq_zero_iff_eq] at h
+    simp [h]
+  by_cases hr : r₂ ≤ r₁
+  · left
+    refine ⟨r₂ / r₁, ⟨div_nonneg hr₂.le hr₁.le, div_le_one_of_le₀ hr hr₁.le⟩, ?_⟩
+    have h' : y = r₁⁻¹ • r₂ • (z -ᵥ x) +ᵥ x := by simp [← h, hr₁.ne']
+    rw [eq_comm]
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean]: Do you really need this line?
```suggestion
```

File: Mathlib/Analysis/Convex/Between.lean (hunk 2 above)
Comment (wangying11123) [reply Mathlib/Analysis/Convex/Between.lean]: Fixed. Thank you for your suggestions.

File: Mathlib/Analysis/Convex/Between.lean [hunk 5]
```diff
@@ -1096,6 +1096,22 @@ theorem wbtw_iff_sameRay_vsub {x y z : P} : Wbtw R x y z ↔ SameRay R (y -ᵥ x
     convert (one_smul R (y -ᵥ x)).symm
     field
 
+lemma wbtw_of_sameRay_vsub_left {x y z : P} (h : SameRay R (y -ᵥ x) (z -ᵥ x)) :
+    Wbtw R x y z ∨ Wbtw R x z y := by
+  rcases h with (h | h | ⟨r₁, r₂, hr₁, hr₂, h⟩)
+  · simp_all
+  · rw [vsub_eq_zero_iff_eq] at h
+    simp [h]
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean]:
```suggestion
  · simp_all
```

File: Mathlib/Analysis/Convex/Between.lean [hunk 6]
```diff
@@ -1096,6 +1096,22 @@ theorem wbtw_iff_sameRay_vsub {x y z : P} : Wbtw R x y z ↔ SameRay R (y -ᵥ x
...
+  wlog hr : r₂ ≤ r₁ generalizing r₁ r₂ y z
+  · rw [or_comm]
+    apply this r₂ r₁ hr₂ hr₁ h.symm (Std.le_of_not_ge hr)
+  · left
+    refine ⟨r₂ / r₁, ⟨div_nonneg hr₂.le hr₁.le, div_le_one_of_le₀ hr hr₁.le⟩, ?_⟩
+    have h' : y = r₁⁻¹ • r₂ • (z -ᵥ x) +ᵥ x := by simp [← h, hr₁.ne']
+    simp only [lineMap_apply, h', vadd_vsub_assoc, smul_smul, eq_vadd_iff_vsub_eq, vsub_self,
+      add_zero]
+    ring_nf
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean]:
```suggestion
  left
  refine ⟨r₂ / r₁, ⟨div_nonneg hr₂.le hr₁.le, div_le_one_of_le₀ hr hr₁.le⟩, ?_⟩
  have h' : y = r₁⁻¹ • r₂ • (z -ᵥ x) +ᵥ x := by simp [← h, hr₁.ne']
  simp only [lineMap_apply, h', vadd_vsub_assoc, smul_smul, eq_vadd_iff_vsub_eq, vsub_self,
    add_zero]
  ring_nf
```

File: Mathlib/Analysis/Convex/Between.lean [hunk 7]
```diff
@@ -1096,6 +1096,22 @@ theorem wbtw_iff_sameRay_vsub {x y z : P} : Wbtw R x y z ↔ SameRay R (y -ᵥ x
     convert (one_smul R (y -ᵥ x)).symm
     field
 
+lemma wbtw_of_sameRay_vsub_left {x y z : P} (h : SameRay R (y -ᵥ x) (z -ᵥ x)) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean]:
```suggestion
lemma wbtw_total_of_sameRay_vsub_left {x y z : P} (h : SameRay R (y -ᵥ x) (z -ᵥ x)) :
```

**Review by YaelDillies — COMMENTED** [review]
Thanks!

maintainer delegate
